US07012077B2
A solution of 211 mg (0.51 mmol) of crude trans-Methanesulfonic acid 4-{4-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-but-3-ynyl ester in 5 ml of methanol was treated with 0.91 ml (5.1 mmol) Dimethylamine (33% in EtOH, 5.6M) and heated at 65° C. for 4 h. After cooling and evaporation, the residue was extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried (Na2SO4), filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 99:1 to 95:5) gave 141 mg (76%) of trans-(5-Bromo-pyrimidin-2-yl)-[4-(4-dimethylamino-but-1-ynyl)-cyclohexyl]-methyl-amine, MS: 365 (MH+, 1Br).

reactant | trans-Methanesulfonic acid 4-{4-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-but-3-ynyl ester | 0.51 mmol, 211 mg | BrC=1C=NC(=NC1)N([C@@H]1CC[C@H](CC1)C#CCCOS(=O)(=O)C)C | C16H22BrN3O3S
reactant | Dimethylamine | 5.1 mmol, 5.6M, 0.91 ml | CNC | C2H7N
solvent | methanol | 5 ml | CO | CH4O
product | trans-(5-Bromo-pyrimidin-2-yl)-[4-(4-dimethylamino-but-1-ynyl)-cyclohexyl]-methyl-amine | 141 mg, 76% | BrC=1C=NC(=NC1)N(C)[C@@H]1CC[C@H](CC1)C#CCCN(C)C | C17H25BrN4
